US04638012
A. N-hexanoyl-N-methylglycine
Sarcosine (1.78 g, 20 mmol) was dissolved in 1N NaOH solution (40 ml) and Et2O (40 ml) was added. After cooling in an ice bath a solution of hexanoyl chloride (3.1 ml, 22 mmol) in Et2O (10 ml) was added dropwise. The mixture was stirred cold for 1 hour. The pH was then adjusted to about 8 by adding 1N NaOH solution (about 3 ml) and the mixture was stirred at room temperature 45 minutes. NaOH solution was added to about pH 9-10. The layers were separated and the aqueous layer was washed with Et2O (50 ml). After acidification of the aqueous layer with concentrated HCl and saturation with solid KCl, the product was extracted into CHCl3 (3×70 ml). The combined CHCl3 extracts were washed with saturated NaCl solution (25 ml), dried (MgSO4), and freed of solvent leaving the title compound as an oil (3.78 g, quant.) which was used without further purification.

reactant | Sarcosine | 20 mmol, 1.78 g | N(C)CC(=O)O | C3H7NO2
reactant | hexanoyl chloride | 22 mmol, 3.1 ml | C(CCCCC)(=O)Cl | C6H11ClO
solvent | NaOH | 1N, 40 ml | [OH-].[Na+]
solvent | Et2O | 10 ml | CCOCC | C4H10O
solvent | NaOH | 1N, about 3 ml | [OH-].[Na+]
solvent | Et2O | 40 ml | CCOCC | C4H10O
product | N-hexanoyl-N-methylglycine | 3.78 g | C(CCCCC)(=O)N(CC(=O)O)C | C9H17NO3
